US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.56 g) and [(1-benzylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.61 g) as starting materials, 5-benzyloxy-N-[(1-benzylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.67 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.56 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(1-benzylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.61 g | C(C1=CC=CC=C1)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C20H23N3
product | 5-benzyloxy-N-[(1-benzylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.67 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC1=CC=CC=C1 | C38H39N3O2
